US08053441B2
2-(3-Methyl-3,4-dihydro-2H-pyrazol-3-yl)-7-trifluoromethyl-3H-quinazolin-4-one
Following the procedure in Example 7, using 2-isopropenyl-7-trifluoromethyl-3H-quinazolin-4-one and TMSCHN2 as starting materials yielded the title compound as a white solid.

reactant | 2-isopropenyl-7-trifluoromethyl-3H-quinazolin-4-one | C(=C)(C)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F | C12H9F3N2O
reactant | TMSCHN2 | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
product | 2-(3-Methyl-3,4-dihydro-2H-pyrazol-3-yl)-7-trifluoromethyl-3H-quinazolin-4-one | CC1(NN=CC1)C1=NC2=CC(=CC=C2C(N1)=O)C(F)(F)F | C13H11F3N4O
